US04304735
To a mixture of 1100 grams (10.0 moles) of thiophenol, and 300 grams of boron trifluoride-phosphoric acid complex was slowly added, with stirring, 620 grams (10.9 moles) of isobutylene at 0° C. After addition was complete the mixture was stirred at 0°-10° C. for two hours. The mixture was then heated to 70° C. and stirred at 70°-75° C. for two hours. The reaction mixture was cooled to 25° C. and the organic layer was separated from the lower catalyst layer and added to 500 ml of toluene. The toluene layer was washed four times with 1000-ml portions of water and then dried with magnesium sulfate. The toluene was evaporated from the mixture in vacuo and the residue was distilled in a 10-tray column to give 1120 grams of 4-(tert-butyl)thiophenol, b.p. 58°-60°/1.00 mm (yield 68%). The nmr spectrum agreed with the structure. The residue from the above distillation was 470 grams of tert-butyl 4-(tert-butyl)phenyl sulfide. Neuworth et al (1963) report b.p. 120°/20 mm for 4-(tert-butyl)thiophenol.

reactant | thiophenol | 10.0 moles, 1100 grams | C1(=CC=CC=C1)S | C6H6S
reactant | isobutylene | 10.9 moles, 620 grams | CC(C)=C | C4H8
product | 4-(tert-butyl)thiophenol | 1120 grams, yield 68% | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
